US06603012B2
Preparation of (RS)-ethyl 2-[4-(3,3-dimethylacrylamido)-phenyl]-heptanoate
10.4 g of (RS)-ethyl 2-(4-aminophenyl)-heptanoate dissolved in 100 ml of chloroform was treated dropwise with 4.64 ml of 3,3-dimethylacryloyl chloride. The mixture was heated to reflux for 6 hours. After cooling to room temperature, 100 ml of water were added. The phases were separated and the aqueous phase was extracted with two portions of 50 ml of chloroform. The combined organic extracts were washed with two portions of 100 ml of saturated aqueous sodium bicarbonate solution and one portion of 100 ml of saturated aqueous sodium chloride solution. The organic phase was dried over MgSO4 and concentrated in vacuo. The product was used without purification. 1H NMR (CDCl3): 7.48 (br. d, J=8.4 Hz, 2H), 7.39 (br. s, 1H), 7.24 (d, J=8.5 Hz, 2H), 5.71 (br. s, 1H), 4.20-4.00 (m, 2H), 3.48 (t, J=7.7 Hz, 1H), 2.21 (br. s, 3H), 2.15-1.95 (m, 1H), 1.87 (s, 3H), 1.80-1.65 (m, 1H), 1.35-1.15 (m, 6H), 1.20 (t, J=7.1 Hz, 3H), 0.85 (t, J=6.7 Hz, 3H).

reactant | (RS)-ethyl 2-(4-aminophenyl)-heptanoate | 10.4 g | NC1=CC=C(C=C1)C(C(=O)OCC)CCCCC | C15H23NO2
reactant | 3,3-dimethylacryloyl chloride | 4.64 ml | CC(=CC(=O)Cl)C | C5H7ClO
reactant | water | 100 ml | O | H2O
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | (RS)-ethyl 2-[4-(3,3-dimethylacrylamido)-phenyl]-heptanoate | CC(=CC(=O)NC1=CC=C(C=C1)C(C(=O)OCC)CCCCC)C | C20H29NO3
